US06887874B2
A mixture of 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)4chloro-6-methoxycinnoline (204 mg, 0.5 mmol), 5-hydroxy-2-methylindole (81 mg) and cesium carbonate (326 mg, 1 mmol) in DMF (2.5 ml) was stirred at 90° C. for 2 hours. After cooling, the mixture was filtered, wash ed with DMF and the volatiles were removed under vacuum. The crude product was dissolved in methylene chloride (4 ml) containing TEA (1.5 ml) and was stirred at ambient temperature for 1 hour. The volatiles were removed under vacuum. The residue was partitioned between methylene chloride and 1N aqueous sodium hydroxide. The organic layer was separated, dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography eluting with a gradient of methylene chloride/methanol saturated with ammonia (5/95 to 15/85). The fractions containing the expected product were combined and evaporated. The residue was triturated under diethyl ether and the precipitate was filtered, washed with ether and dried under vacuum to give 7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)-6-methoxy-4-(2-methylindol-5yl)cinnoline (42 mg, 20%).

reactant | 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)4chloro-6-methoxycinnoline | 0.5 mmol, 204 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CN=NC2=C1)Cl)OC | C20H26ClN3O4
reactant | 5-hydroxy-2-methylindole | 81 mg | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
reactant | cesium carbonate | 1 mmol, 326 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 7-(1-tert-butoxycarbonylpiperidin-4-ylmethoxy)-6-methoxy-4-(2-methylindol-5yl)cinnoline | 42 mg, 20% | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CN=NC2=C1)C=1C=C2C=C(NC2=CC1)C)OC | C29H34N4O4
